US08048887B2
2-(4-Fluorophenyl)-5-(3-(isoindoline-2-carbonyl)phenyl)-N-methylbenzofuran-3-carboxamide
Isoindoline (20 μL, 0.18 mmol) was added to a stirred suspension of 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid (20 mg, 0.051 mmol), HATU (25 mg, 0.066 mmol), and DIPEA (50 μL, 0.29 mmol) in DMF (0.5 mL). The reaction was stirred at r.t. overnight. The reaction was then diluted with MeOH and an off-white ppt. formed. The ppt. was collected by filtration, triturated with MeOH, and air dried to afford the title compound (17 mg, 68% yield). 1H NMR (500 MHz, DMSO-d6) δ ppm 8.50 (q, J=4.58 Hz, 1H) 7.99-8.05 (m, 2H) 7.90-7.95 (m, 2H) 7.85 (dt, J=6.10, 2.44 Hz, 1H) 7.77-7.81 (m, 1H) 7.73-7.77 (m, 1H) 7.58-7.64 (m, 2H) 7.36-7.45 (m, 3H) 7.30-7.34 (m, 1H) 7.29 (s, 2H) 4.91 (s, 2H) 4.84 (s, 2H) 2.86 (d, J=4.88 Hz, 3H). LC/MS was performed on a Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. LC/MS method: solvent A=10% CH3CN/90% H2O/0.1% TFA, solvent B=90% CH3CN/10% H2O/0.1% TFA, start % B=0, final % B=100, gradient time=3 min, stop time=4 min, flow rate=4 ml/min, column: Sunfire C18 5 μm 4.6×50 mm; HPLC Rt=2.48 min, (ES+) m/z (MH+)=491. Analytical HPLC method: solvent A=5% CH3CN/95% H2O/0.1% TFA, solvent B=95% CH3CN/5% H2O/0.1% TFA, start % B=10, final % B=100, gradient time=15 min, stop time=18 min, flow rate=1 ml/min. Column: Waters Sunfire C-18, 3.5 μm 4.6×150 mm, Rt=13.81 min, purity=100%; column: Waters XBridge phenyl 3.5 μm 4.6×150 mm, Rt=13.81 min, purity=100%.

reactant | Isoindoline | 0.18 mmol, 20 μL | C1NCC2=CC=CC=C12 | C8H9N
reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid | 0.051 mmol, 20 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2 | C23H16FNO4
reactant | HATU | 0.066 mmol, 25 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.29 mmol, 50 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 2-(4-Fluorophenyl)-5-(3-(isoindoline-2-carbonyl)phenyl)-N-methylbenzofuran-3-carboxamide | 17 mg, 68% yield | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=CC(=CC=C2)C(=O)N2CC1=CC=CC=C1C2 | C31H23FN2O3
